### PR TITLE
[Merged by Bors] - feat(Order/OrderIsoNat): sequence in well-founded order is not `StrictAnti`

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/OrderIsoNat.lean [hunk 1]
```diff
@@ -92,6 +92,16 @@ theorem not_wellFounded_of_decreasing_seq (f : ((· > ·) : ℕ → ℕ → Prop
 
 end RelEmbedding
 
+theorem not_strictAnti_of_wellFoundedLT [Preorder α] [h : WellFoundedLT α] (f : ℕ → α) :
+    ¬ StrictAnti f := by
+  by_contra! hf
+  exact (RelEmbedding.wellFounded_iff_no_descending_seq.1 wellFounded_lt).elim
+    ⟨⟨f, hf.injective⟩, hf.lt_iff_lt⟩
```
Comment (b-mehta) [inline Mathlib/Order/OrderIsoNat.lean:99]:
```suggestion
theorem not_strictAnti_of_wellFoundedLT [Preorder α] [h : WellFoundedLT α] (f : ℕ → α) :
    ¬ StrictAnti f := fun hf ↦
  (RelEmbedding.natGT f (fun n ↦ hf (by simp))).not_wellFounded_of_decreasing_seq wellFounded_lt
```

File: Mathlib/Order/OrderIsoNat.lean [hunk 2]
```diff
@@ -92,6 +92,14 @@ theorem not_wellFounded_of_decreasing_seq (f : ((· > ·) : ℕ → ℕ → Prop
 
 end RelEmbedding
 
+theorem not_strictAnti_of_wellFoundedLT [Preorder α] [h : WellFoundedLT α] (f : ℕ → α) :
```
Comment (b-mehta) [inline Mathlib/Order/OrderIsoNat.lean:95]:
```suggestion
theorem not_strictAnti_of_wellFoundedLT [Preorder α] [WellFoundedLT α] (f : ℕ → α) :
```

**Comment by b-mehta** [comment]
Thanks!

bors merge
